US06130217
5-[3-(4-Diphenylmethylpiperazin-1-yl)-propoxy]-3,4-dihydro-2-(1 H)-naphthalenone
A suspension of sodium hydride (11 mg 60% oil dispersion, 0.28 mmol) and 5-hydroxy-1-tetralone (43 mg, 0.27 mmol) in 5 mL of THF was warmed to about 50° C. for about 30 min. After addition of N-diphenylmethyl-N'-(3-bromopropyl)piperazine (100 mg, 0.27 mmol) the mixture was stirred at about 50° C. for about 3 h. Evaporation of the solvent and silica gel chromatography of the residue (diethyl ether-CH2Cl2 =1:4) gave 100 mg (83%) of the title compound as an oil; MS 455.4.

reactant | sodium hydride | 0.28 mmol, 11 mg | [H-].[Na+]
reactant | 5-hydroxy-1-tetralone | 0.27 mmol, 43 mg | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | N-diphenylmethyl-N'-(3-bromopropyl)piperazine | 0.27 mmol, 100 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCBr)C1=CC=CC=C1 | C20H25BrN2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-[3-(4-Diphenylmethylpiperazin-1-yl)-propoxy]-3,4-dihydro-2-(1 H)-naphthalenone | 100 mg, 83% | C1(=CC=CC=C1)C(N1CCN(CC1)CCCOC1=C2CCC(CC2=CC=C1)=O)C1=CC=CC=C1 | C30H34N2O2
